* Z:\home\byron\Documents\School\Circuits\Labs\postlab4\Draft1.asc
Q1 N004 N004 N006 0 NPN
Q2 N001 0 N004 0 NPN
Q3 N005 N005 N006 0 NPN
Q4 N002 0 N005 0 NPN
Q5 N005 N005 N007 0 NPN
Q6 NC_01 NC_02 N007 0 NPN
Q7 N003 0 NC_03 0 NPN
XU1 N001 0 N006 opamp Aol=100K GBW=10Meg
XU2 NC_04 0 N007 opamp Aol=100K GBW=10Meg
XU3 N002 0 Vz opamp Aol=100K GBW=10Meg
R1 Vz N002 R
R2 Vy N003 R
R3 Vx N001 R
V1 Vy 0 5
V2 Vz 0 5
V3 Vx 0 5
.model NPN NPN
.model PNP PNP
.lib Z:\usr\share\ltspice\lib\cmp\standard.bjt
.tran 1
.backanno
.end
